US06316482B1
A solution of 3-methoxy-4-(2-methoxy-1H-benzimidazol-4-yl)carbonylamino-N-methyl-N-[4-methyl-2-[5-(4-methylpiperazin-1-yl)carbonylpent-1-yloxy]phenyl]benzamide (139 mg) in 10% hydrogen chloride in methanol (2 ml) was stirred at ambient temperature for 2 hours and 4N hydrogen chloride in 1,4-dioxane (2 ml) was added to the mixture. After being allowed to stand at ambient temperature overnight, the reaction mixture was concentrated in vacuo and the residue was diluted with a mixture of chloroform and saturated aqueous sodium bicarbonate solution. The organic layer was separated and washed with water and brine. The solution was dried over magnesium sulfate and evaporated in vacuo. The residue was purified by preparative thin-layer chromatography (chloroform-methanol=10:1) to give 4-(2-hydroxy-1H-benzimidazol-4-yl)carbonylamino-3-methoxy-N-methyl-N-[4-methyl-2-[5-(4-methylpiperazin-1-yl)carbonylpent-1-yloxy]phenyl]benzamide (53 mg) as a powder.

reactant | 3-methoxy-4-(2-methoxy-1H-benzimidazol-4-yl)carbonylamino-N-methyl-N-[4-methyl-2-[5-(4-methylpiperazin-1-yl)carbonylpent-1-yloxy]phenyl]benzamide | 139 mg | COC=1C=C(C(=O)N(C2=C(C=C(C=C2)C)OCCCCCC(=O)N2CCN(CC2)C)C)C=CC1NC(=O)C1=CC=CC=2NC(=NC21)OC | C36H44N6O6
solvent | hydrogen chloride | Cl | ClH
solvent | methanol | 2 ml | CO | CH4O
solvent | 1,4-dioxane | 2 ml | O1CCOCC1 | C4H8O2
solvent | hydrogen chloride | 4N | Cl | ClH
product | 4-(2-hydroxy-1H-benzimidazol-4-yl)carbonylamino-3-methoxy-N-methyl-N-[4-methyl-2-[5-(4-methylpiperazin-1-yl)carbonylpent-1-yloxy]phenyl]benzamide | 53 mg | OC1=NC2=C(N1)C=CC=C2C(=O)NC2=C(C=C(C(=O)N(C1=C(C=C(C=C1)C)OCCCCCC(=O)N1CCN(CC1)C)C)C=C2)OC | C35H42N6O6
